US09315490B2
(1-(5-(2-Methylpyridin-4-yl)pyrimidin-2-yl)-3-(methylsulfinyl)-1H-indol-6-yl)(morpholino)methanone
Hydrogen peroxide (30%, 0.4 mL, 3.595 mmol, 4.0 eq) was added to a stirred solution of (1-(5-(2-methylpyridin-4-yl)pyrimidin-2-yl)-3-(methylthio)-1H-indol-6-yl)(morpholino)methanone (400 mg, 0.898 mmol, 1.0 eq, synthesized analogously to procedure 1d) in acetic acid (10 mL). The reaction mixture was stirred for 1 h at room temperature and then diluted with dichloromethane (20 mL). The mixture was washed with saturated sodium hydrogen carbonate solution and brine, dried over anhydrous sodium sulfate, and evaporated under vacuum. The remnant was purified by preparative silica gel TLC [dichloromethane with 3% methanol]. White solid. Yield: 250 mg

reactant | Hydrogen peroxide | 3.595 mmol, 0.4 mL, 4.0 eq | OO | H2O2
reactant | (1-(5-(2-methylpyridin-4-yl)pyrimidin-2-yl)-3-(methylthio)-1H-indol-6-yl)(morpholino)methanone | CC1=NC=CC(=C1)C=1C=NC(=NC1)N1C=C(C2=CC=C(C=C12)C(=O)N1CCOCC1)SC | C24H23N5O2S
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (1-(5-(2-Methylpyridin-4-yl)pyrimidin-2-yl)-3-(methylsulfinyl)-1H-indol-6-yl)(morpholino)methanone | CC1=NC=CC(=C1)C=1C=NC(=NC1)N1C=C(C2=CC=C(C=C12)C(=O)N1CCOCC1)S(=O)C | C24H23N5O3S
